US07671033B2
Preparation of 4-Octyloxybenzyl Chloride
This compound was synthesized following the same general procedure as that for the preparation of 4-ethoxybenzyl chloride; thionyl chloride (6.36 g, 53.4 mmol), 4-octyloxybenzyl alcohol (12.4 g, 52.5 mmol), CH2Cl2 (150 mL).

reactant | 4-ethoxybenzyl chloride | C(C)OC1=CC=C(CCl)C=C1 | C9H11ClO
reactant | thionyl chloride | 53.4 mmol, 6.36 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-octyloxybenzyl alcohol | 52.5 mmol, 12.4 g | C(CCCCCCC)OC1=CC=C(CO)C=C1 | C15H24O2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Octyloxybenzyl Chloride | C(CCCCCCC)OC1=CC=C(CCl)C=C1 | C15H23ClO
